US06576643B2
c) Ethyl (±)-10,11-dihydro-3-[4-(2-tetrahydropyranyloxy)-1-butyl ]-5H-dibenzo[a,d]cycloheptene-10-acetate
A mixture of ethyl (±)-10,11-dihydro-3-[4-(2-tetrahydropyranyloxy)-1-butyn-1-yl]-5H-dibenzo[a,d]cycloheptene-10-acetate (1.2 g, 2.77 mmole), 10% Pd/C (0.3 g, 0.28 mmole), and EtOAc (28 mL) was shaken at RT under hydrogen (50 psi) on a Parr apparatus. After 3 hr, the reaction was filtered through celite® and the filtrate was concentrated. Silica gel chromatography (10% EtOAc/hexanes) gave the title compound (1.06 g, 88%) as a colorless oil: TLC (20% EtOAc/hexanes) Rf0.51; 1H NMR (400 MHz, CDCl3) δ7.05-7.20 (m, 4 H), 6.92-7.03 (m, 3 H), 4.53-4.60 (m, 1 H), 4.34 (d, J=15.1 Hz, 1 H), 4.12-4.26 (m, 2 H), 3.80-3.90 (m, 3 H), 3.71-3.80 (m, 1 H), 3.44-3.53 (m, 1 H), 3.35-3.44 (m, 1 H), 3.33 (dd, J=15.1, 4.1 Hz, 1 H), 2.95 (dd, J=15.1, 9.4 Hz, 1 H), 2.65 (dd, J=15.5, 4.9 Hz, 1 H), 2.49-2.61 (m, 3 H), 1.77-1.90 (m, 1 H), 1.45-1.77 (m, 9 H), 1.27 (t, J=7.1 Hz, 3 H); MS (ES) m/e 459 (M+Na)+.

reactant | ethyl (±)-10,11-dihydro-3-[4-(2-tetrahydropyranyloxy)-1-butyn-1-yl]-5H-dibenzo[a,d]cycloheptene-10-acetate | 2.77 mmole, 1.2 g | O1C(CCCC1)OCCC#CC=1C=CC2=C(CC3=C(C(C2)CC(=O)OCC)C=CC=C3)C1 | C28H32O4
catalyst | Pd/C | 0.28 mmole, 0.3 g | [Pd] | Pd
solvent | EtOAc | 28 mL | CCOC(=O)C | C4H8O2
product | Ethyl (±)-10,11-dihydro-3-[4-(2-tetrahydropyranyloxy)-1-butyl ]-5H-dibenzo[a,d]cycloheptene-10-acetate | 1.06 g, 88% | O1C(CCCC1)OCCCCC=1C=CC2=C(CC3=C(C(C2)CC(=O)OCC)C=CC=C3)C1 | C28H36O4
